US05998433
To a solution of 0.209 g (0.837 mmol) of N-benzyl-N-(3-furylmethyl)-2-chloroethylamine in 50 ml of tetrahydrofuran, 1.05 ml (1.67 mmol) of 1.6 M n-butyl lithium in hexane was added under ice-cooling, followed by stirring at room temperature for 2 hours. The reaction mixture was poured into aqueous sodium hydroxide and extracted with dichloromethane 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (hexane/ethyl acetate=9/1) to yield 5-benzyl-4,5,6,7-tetrahydrofuro[3,2-c]pyridine.

reactant | N-benzyl-N-(3-furylmethyl)-2-chloroethylamine | 0.837 mmol, 0.209 g | C(C1=CC=CC=C1)N(CC1=COC=C1)CCCl | C14H16ClNO
reactant | n-butyl lithium | 1.67 mmol, 1.6 M, 1.05 ml | C(CCC)[Li]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 5-benzyl-4,5,6,7-tetrahydrofuro[3,2-c]pyridine | C(C1=CC=CC=C1)N1CC2=C(CC1)OC=C2 | C14H15NO
